* C:\Users\User\Documents\Module 3\FINAL\ampmod3\CCC_inputbuffer.asc
Rb1 N001 b 25k
Rb2 b 0 5k
C1 b in 10µ
Q1 c b e 0 BC550
Re N002 0 200
V1 in 0 SINE(0 0.141 1000) AC 1
V2 N001 0 10
Rc N001 c 5k
C2 out c 10µ
R5 out 0 50k
R1 e 0 1k
Ce e N002 40µ
.model NPN NPN
.model PNP PNP
.lib C:\Users\User\Documents\LTspiceXVII\lib\cmp\standard.bjt
;ac dec 1000 5 50000
.tran 0 1.010 1
.backanno
.end
