* C:\Users\User\Documents\Module 3\FINAL\ampmod3\CCC_outputbuffer.asc
R1 c N002 1k
R2 N002 0 1.63k
C1 N002 N001 1000µ
R3 e 0 80
V1 N001 0 SINE(0 1 1000) AC 1
V2 c 0 10
Q1 c N003 e 0 MJE3055
Q2 c N002 N003 0 BC550
C2 N004 e 1000µ
R4 N004 0 4
.model NPN NPN
.model PNP PNP
.lib C:\Users\User\Documents\LTspiceXVII\lib\cmp\standard.bjt
;ac dec 1000 5 50000
.tran 0 0.001 0
.backanno
.end
